US05925673
Step 2: Preparation of 2-(6-methoxy-2-naphthyl)propyl thioacetate.
To a solution of diethylazodicarboxylate (4.03 g, 23.14 mmol) and triphenyl phosphine (6.06 g, 23.14 mmol) at 0° C. in THF (50 mL) was added 2-(6-methoxy-2-naphthyl)propan-1-ol (2.5 g, 11.57 mmol) and thioacetic acid (1.76 g, 23.14 mmol). The reaction mixture was stirred for 30 minutes before it was allowed to warm to room temperature and then stirred overnight. The reaction mixture was diluted with ethyl acetate ("EtOAc") (100 mL) and washed with water (100 mL). The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, ethyl acetate-hexane (1:9)) to give 1.5 g of the title compound as an oil. 1H NMR (CDCl3)δ1.38 (d, 3 H, CH3), 2.29 (s, 3 H, SCH3), 3.10 (m, 1 H), 3.18 (m, 2 H), 3.91 (s, 3 H, OCH3), 7.11-7.72 (m, 6 H).

reactant | diethylazodicarboxylate | 23.14 mmol, 4.03 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 23.14 mmol, 6.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(6-methoxy-2-naphthyl)propan-1-ol | 11.57 mmol, 2.5 g | COC=1C=C2C=CC(=CC2=CC1)C(CO)C | C14H16O2
reactant | thioacetic acid | 23.14 mmol, 1.76 g | C(C)(=S)O | C2H4OS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(6-methoxy-2-naphthyl)propyl thioacetate | 1.5 g | C(C)(=S)OCC(C)C1=CC2=CC=C(C=C2C=C1)OC | C16H18O2S
